US07351719B2
125c) N-[3-chloro-4-(2-diethylamino-ethoxy)-phenyl]-2-(2-chloro-4-trifluoromethyl-phenoxy)-N-methyl-acetamide
293 mg (0.911 mmol) of TBTU and 123 mg (0.911 mmol) of HOBT were added to a suspension of 231 mg (0.911 mmol) of (2-chloro-4-trifluoromethyl-phenoxy)-acetic acid (intermediate product Z2b) in 5 mL abs. THF and the mixture was stirred for 10 minutes at RT. 180 mg (0.701 mmol) of [3-chloro-4-(2-diethylamino-ethoxy)-phenyl]-methyl-amine and 0.18 mL (1.051 mmol) of ethyl-diisopropylamine were added, the mixture was stirred for 16 hours at RT and evaporated down i. vac. The residue was purified by column chromatography (silica gel, silica gel, dichloromethane/MeOH/conc. aqueous ammonia 85:15:1).

reactant | TBTU | 0.911 mmol, 293 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.[B-](F)(F)(F)F
reactant | HOBT | 0.911 mmol, 123 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | (2-chloro-4-trifluoromethyl-phenoxy)-acetic acid | 0.911 mmol, 231 mg | ClC1=C(OCC(=O)O)C=CC(=C1)C(F)(F)F | C9H6ClF3O3
reactant | [3-chloro-4-(2-diethylamino-ethoxy)-phenyl]-methyl-amine | 0.701 mmol, 180 mg | ClC=1C=C(C=CC1OCCN(CC)CC)NC | C13H21ClN2O
reactant | ethyl-diisopropylamine | 1.051 mmol, 0.18 mL | C(C)N(C(C)C)C(C)C | C8H19N
solvent | THF | C1CCOC1 | C4H8O
product | N-[3-chloro-4-(2-diethylamino-ethoxy)-phenyl]-2-(2-chloro-4-trifluoromethyl-phenoxy)-N-methyl-acetamide | ClC=1C=C(C=CC1OCCN(CC)CC)N(C(COC1=C(C=C(C=C1)C(F)(F)F)Cl)=O)C | C22H25Cl2F3N2O3
